US05891909
a) 2-Amino-4-methylbenzonitrile
A mixture of 4-methyl-2-nitrobenzonitrile (4.9 g, 30 mmol) and 10% palladium on carbon (500 mg) in 1,4-dioxane (60 mL) was stirred under hydrogen (balloon) overnight. The catalyst was removed by filtration through the Celite, and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (dichloromethane) to give the title compound as a pale yellow solid (3.3 g, 83%). 1H-NMR (300 MHz, CDCl3) δ 7.26 (d, J=8.3 Hz, 1H), 6.56 (s, 1H), 6.55 (s, 1H), 4.32 (br s, 2H), 2.29 (s, 3H).

reactant | 4-methyl-2-nitrobenzonitrile | 30 mmol, 4.9 g | CC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-4-methylbenzonitrile | 3.3 g, 83% | NC1=C(C#N)C=CC(=C1)C | C8H8N2
